US07847101B2
Synthesis of 4-benzothiazol-2-yl-1H-pyrazol-3-ylamine
A mixture of 2-aminobenzenethiol (100 mg, 0.8 mmol) and 3-aminopyrazole-4-carbonitrile (86 mg, 0.8 mmol) in 3 g of polyphosphoric acid was heated at 200° C. for 3 hours. The mixture was then poured into ice water and was neutralized with conc. Ammonium hydroxide solution. The resulting yellow solid was isolated by filtration and washed with cold water to yield the title compound (70 mg, 40%). MS (m/z, ES+): 217 (M+1, 100%); 1H NMR (300 MHz, ppm, DMSO-d6): δ 7.97 (d, 3J=7.8 Hz, 1H), 7.88 (s, 1H), 7.84 (d, 3J=8.0 Hz, 1H), 7.42 (m, 1H), 7.29 (m, 1H), 6.3 (br s, 2H).

reactant | 2-aminobenzenethiol | 0.8 mmol, 100 mg | NC1=C(C=CC=C1)S | C6H7NS
reactant | 3-aminopyrazole-4-carbonitrile | 0.8 mmol, 86 mg | NC1=NNC=C1C#N | C4H4N4
reactant | Ammonium hydroxide | [OH-].[NH4+]
product | 4-benzothiazol-2-yl-1H-pyrazol-3-ylamine | 70 mg, 40% | S1C(=NC2=C1C=CC=C2)C=2C(=NNC2)N | C10H8N4S
